US04094994
(b) 1-chlor-1-(3'-methoxyphenyl)-propane
The preparation was effected in analogy to example 1(b) from 1-(3'-methoxyphenyl)-propan-1-ol and HCl gas.

reactant | 1-(3'-methoxyphenyl)-propan-1-ol | COC=1C=C(C=CC1)C(CC)O | C10H14O2
reactant | HCl | Cl | ClH
product | 1-chlor-1-(3'-methoxyphenyl)-propane | ClC(CC)C1=CC(=CC=C1)OC | C10H13ClO
